US03950343
To a suspension of 1,3,4,5-tetrahydropyrrolo[4,3,2-de]isoquinoline (3.24 g), described in Example 5, in chloroform (350 ml), triethylamine (6.0 ml) is added, followed by dropwise addition of 3-chloropropionyl chloride (4.2 ml). The mixture is stirred at room temperature for 2.5 hr. Aqueous sodium bicarbonate is added and the stirring is continued for 15 minutes. The layers are separated and the organic phase washed with water, dried and concentrated to give 4-(3-chloropropionyl)-1,3,4,5-tetrahydropyrrolo[4,3,2-de]isoquinoline, mp 158°-161°C after recrystallizaton from chloroform.

reactant | 1,3,4,5-tetrahydropyrrolo[4,3,2-de]isoquinoline | 3.24 g | N1C=C2CNCC=3C=CC=C1C23 | C10H10N2
reactant | triethylamine | 6.0 ml | C(C)N(CC)CC | C6H15N
reactant | 3-chloropropionyl chloride | 4.2 ml | ClCCC(=O)Cl | C3H4Cl2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | chloroform | 350 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-(3-chloropropionyl)-1,3,4,5-tetrahydropyrrolo[4,3,2-de]isoquinoline | ClCCC(=O)N1CC=2C=CC=C3C2C(C1)=CN3 | C13H13ClN2O
